US04558155
3-(3,5-Dichlorophenoxy)-N-(1-methylethyl)-1-propanamine, Hydrochloride
Following the procedure of Preparation 1, a mixture of 3-[3,5-dichlorophenoxy]-1-chloropropane and 3-[3,5-dichlorophenoxy]-1-bromopropane and isopropyl amine were reacted in refluxing chloroform overnight and the reaction mixture processed to yield an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to form the hydrochloride salt; m.p. 157°-159° C.

reactant | 3-[3,5-dichlorophenoxy]-1-chloropropane | ClC=1C=C(OCCCCl)C=C(C1)Cl | C9H9Cl3O
reactant | 3-[3,5-dichlorophenoxy]-1-bromopropane | ClC=1C=C(OCCCBr)C=C(C1)Cl | C9H9BrCl2O
reactant | isopropyl amine | C(C)(C)N | C3H9N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(3,5-Dichlorophenoxy)-N-(1-methylethyl)-1-propanamine, Hydrochloride | Cl.ClC=1C=C(OCCCNC(C)C)C=C(C1)Cl | InChI=1S/C12H17Cl2NO.ClH/c1-9(2)15-4-3-5-16-12-7-10(13)6-11(14)8-12;/h6-9,15H,3-5H2,1-2H3;1H
